US05389491
Using pyrogallol in place of phloroglucinol used in Synthesis Example 13 and isopropoxymethylchloride obtained in Synthesis Example 2, the reaction and treatment were carried out in the same manner as described in Synthesis Example 13 to give the corresponding 1,2,3-tris(isopropoxymethoxy)benzene as a yellow oil.

reactant | pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | isopropoxymethylchloride | C(C)(C)OCCl | C4H9ClO
product | 1,2,3-tris(isopropoxymethoxy)benzene | C(C)(C)OCOC1=C(C(=CC=C1)OCOC(C)C)OCOC(C)C | C18H30O6
